US05202441
Lauryl 3-[N-(1-Octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)- N-hydroxyamino]propionate
A mixture of 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-one oxime (10.0 g, 35.4 mmol) (a mixture of octyloxy isomers) 5.5 ml of concentrated hydrochloric acid and 130 ml of methanol is subjected to 3 atmospheres of hydrogen over 5% platinum on carbon for 18 hours. The reaction mixture is filtered through celite and then concentrated. The residue is partitioned between ethyl acetate and aqueous potassium carbonate. The organic layer is washed with water and brine, dried over anhydrous sodium sulfate and finally concentrated to a total volume of about 150 ml. Lauryl acrylate (7.7 g, 32 mmol) is added. After a two-hour reaction time, the reaction mixture is concentrated and the crude product purified by flash chromatography on silica gel (9:1, hexane:ethyl acetate) to yield 10.0 g (52% yield) of a clear oil.

reactant | 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-one oxime | 35.4 mmol, 10.0 g | C(CCCCCCC)ON1C(CC(CC1(C)C)=NO)(C)C | C17H34N2O2
reactant | hydrochloric acid | 5.5 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | Lauryl acrylate | 32 mmol, 7.7 g | C(C=C)(=O)OCCCCCCCCCCCC | C15H28O2
catalyst | platinum on carbon | [Pt] | Pt
solvent | methanol | 130 ml | CO | CH4O
product | Lauryl 3-[N-(1-Octyloxy-2,2,6,6-tetramethylpiperidin-4-yl)- N-hydroxyamino]propionate | 10.0 g, 52% yield | C(CCCCCCC)ON1C(CC(CC1(C)C)N(O)CCC(=O)OCCCCCCCCCCCC)(C)C | C32H64N2O4
